US05212187
N-cyano-N'-[2-[N-[3-phenyl-3-(2-pyridyl)propyl]-N-methylamino]ethyl]-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine
Preparation is effected analogously to Example 1, using 0.7 g (2.6 mmol) of N-methyl-N-[3-phenyl-3-(2-pyridyl)propyl]-1,2-ethanediamine and 1 g (2.5 mmol) of N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea as starting materials. Working up by chromatography (eluant: ethyl acetate) analogously to Example 1 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int.[%])=568 ([M+H]+ 3), 196 (100).

reactant | N-methyl-N-[3-phenyl-3-(2-pyridyl)propyl]-1,2-ethanediamine | 2.6 mmol, 0.7 g | CN(CCN)CCC(C1=NC=CC=C1)C1=CC=CC=C1 | C17H23N3
reactant | N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea | 2.5 mmol, 1 g | C(#N)NC(OC1=CC=CC=C1)=NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C23H28N4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-cyano-N'-[2-[N-[3-phenyl-3-(2-pyridyl)propyl]-N-methylamino]ethyl]-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine | C(#N)NC(=NCCCOC1=CC(=CC=C1)CN1CCCCC1)NCCN(C)CCC(C1=NC=CC=C1)C1=CC=CC=C1 | C34H45N7O
